US06586421B2
Preparation of tert-butyl 1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate
Di-tert-butyldicarbonate (6.33 g, 29.0 mmol) was added to a mixture of 1,2,3,4,5,6-hexahydroazepino[4,5-b]indole (5.40 g, 29.0 mmol) in dichloromethane (20 mL). The mixture was stirred for 48 h, then poured into water (50 mL), and extracted with dichloromethane (3×40 mL). The combined organics were dried over sodium sulfate, evaporated in vacuo and crystallized from ethyl acetate to provide 5.71 g of the title compound, the structure of which is shown in FIG. 6 as (22).

reactant | Di-tert-butyldicarbonate | 29.0 mmol, 6.33 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 29.0 mmol, 5.40 g | C1CNCCC=2NC=3C=CC=CC3C21 | C12H14N2
reactant | water | 50 mL | O | H2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | tert-butyl 1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 5.71 g | C1CN(CCC=2NC=3C=CC=CC3C21)C(=O)OC(C)(C)C | C17H22N2O2
